US07700786B2
Potassium carbonate (0.69 g, 5.0 mmol) and ethyl isocyanate (0.28 g, 5.0 mmol) were added to a solution of 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-trifluoromethylpyrazole (1.66 g, 5.0 mmol) in ethyl acetate (20 ml), and the mixture was stirred at room temperature for 3 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate (20 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/5→1/1), to give a white solid of N-ethyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-trifluoromethylpyrazole-1-carboxamide (0.83 g, yield: 51.6%). mp: 52-54° C./1H-NMR (CDCl3, TMS, ppm): δ 1.34 (t, J=7.1 Hz, 3H), 3.75-4.30 (m, 2H), 5.66 (s, 1H), 7.98 (d, J=1.5 Hz, 1H), 8.64 (m, 1H), 10.20-10.40 (m, 1H).

reactant | Potassium carbonate | 5.0 mmol, 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl isocyanate | 5.0 mmol, 0.28 g | C(C)N=C=O | C3H5NO
reactant | 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-trifluoromethylpyrazole | 5.0 mmol, 1.66 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=NNC(=C1)C(F)(F)F | C10H4ClF6N3O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-ethyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-trifluoromethylpyrazole-1-carboxamide | 0.83 g, yield: 51.6% | C(C)NC(=O)N1N=C(C=C1C(F)(F)F)OC1=NC=C(C=C1Cl)C(F)(F)F | C13H9ClF6N4O2
